US04576964
d-, l- and dl-3,4,4a,5-tetrahydro-7,9-dimethoxy-1H,2H-pyrido[1,2-a]quinolin-6-one
Under a nitrogen atmosphere, a mixture of 12.1 g. (0.043 mole) dl-2-[1-(3,5-dimethoxyphenyl)piperidin-2-yl]acetic acid, 100 ml. glacial acetic acid, 6.0 g. sodium acetate and 100 ml. acetic anhydride was stirred at room temperature overnight. The acetic acid and acetic anhydride were removed by evaporation in vacuo, the residue partitioned between methylene chloride and saturated aqueous sodium bicarbonate solution, and the organic phase washed with sodium bicarbonate, water, brine and dried (MgSO4). The extracts were evaporated to dryness to give 13 g. of a green oil. The oil was purified by chromatography on a column containing 300 g. of silica gel, eluting with ethyl acetate. Product fractions were combined and evaporated to afford 5.5 g. of the desired dl product, M.P. 91°-94° C. 1H-NMR (CDCl3) ppm (delta): 2.50 (m, 2H, CH2CO), 3.79 (s, 3H), 3.81 (s, 3H), 5.90 (m, 2H). After recrystallization from isopropyl ether, 2.6 g. of crystals were obtained, M.P. 92°-93° C.

reactant | 2-[1-(3,5-dimethoxyphenyl)piperidin-2-yl]acetic acid | COC=1C=C(C=C(C1)OC)N1C(CCCC1)CC(=O)O | C15H21NO4
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,4,4a,5-tetrahydro-7,9-dimethoxy-1H,2H-pyrido[1,2-a]quinolin-6-one | COC1=C2C(CC3N(C2=CC(=C1)OC)CCCC3)=O | C15H19NO3
